US05070087
4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-3-methoxybenzeneacetic acid sodium salt hydrate [1:1:0.5]
A mixture of 3.0 g (0.01 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 2.9 g (0.01 mole) of 4-(3-chloropropoxy)-3-methoxybenzeneacetic acid ethyl ester, 5.3 g (0.05 mole) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 150 ml of acetonitrile was heated at reflux temperature for 20 hr. The mixture was concentrated under reduced pressure and the residue partitioned between benzene and water. The benzene layer was washed with water and brine, dried over sodium sulfate, and concentrated under reduced pressure to give the ethyl ester of the title compound as a gum. The gum was converted to the hydrochloride with ethereal hydrogen chloride to give a white solid. The solid could not be recrystallized so it was partitioned between methylene chloride and a 5% sodium hydroxide solution. An emulsion resulted which was let stand for 2 months while the layers separated. During this time a solid precipitated. The mixture was filtered. The filter cake was recrystallized from ethyl acetate to yield 0.7 g (13%) of the title compound as a fluffy, white solid, mp 102°-112° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.01 mole, 3.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 4-(3-chloropropoxy)-3-methoxybenzeneacetic acid ethyl ester | 0.01 mole, 2.9 g | C(C)OC(CC1=CC(=C(C=C1)OCCCCl)OC)=O | C14H19ClO4
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-3-methoxybenzeneacetic acid sodium salt hydrate | O.[Na+].FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C=C(C=C1)CC(=O)[O-])OC)(O)C1=CC=C(C=C1)F | InChI=1S/C30H33F2NO5.Na.H2O/c1-37-28-19-21(20-29(34)35)3-12-27(28)38-18-2-15-33-16-13-24(14-17-33)30(36,22-4-8-25(31)9-5-22)23-6-10-26(32)11-7-23;;/h3-12,19,24,36H,2,13-18,20H2,1H3,(H,34,35);;1H2/q;+1;/p-1
